US08581009B2
A glass flask equipped with a thermometer, a condenser and a dropping funnel was charged with 290 g (0.74 mole) of 65% purity sodium 1,1-difluoro-2-(pivaloyloxy)ethane-1-sulfinic acid obtained by Comparative Example 1-2, a catalytic amount of sodium tungstate(IV) dehydrate and 600 ml of water, followed by stirring. Then, 170 g (1.5 moles) of 30% hydrogen peroxide solution was added dropwise in an iced bath. After the termination of the dropping, stirring was conducted for 1 hour at room temperature. Then, the termination of the reaction was confirmed by 19F NMR. The reaction solution was condensed and then rinsed with 500 ml of diisopropyl ether. Subsequently, filtration was conducted and a solid obtained therewith was dried, thereby obtaining 278 g of sodium 1,1-difluoro-2-(pivaloyloxy)ethanesulfonic acid in the form of a white solid (91% yield, 65% purity). In this case, 2-bromo-2,2-difluoroethyl pivalate was detected to be formed as a by-product in an amount of 8%.

reactant | sodium 1,1-difluoro-2-(pivaloyloxy)ethane-1-sulfinic acid | FC(COC(C(C)(C)C)=O)(S(=O)O)F.[Na]
reactant | hydrogen peroxide | 1.5 moles, 170 g | OO | H2O2
solvent | water | 600 ml | O | H2O
product | sodium 1,1-difluoro-2-(pivaloyloxy)ethanesulfonic acid | 278 g, 91% yield | FC(COC(C(C)(C)C)=O)(S(=O)(=O)O)F.[Na] | InChI=1S/C7H12F2O5S.Na/c1-6(2,3)5(10)14-4-7(8,9)15(11,12)13;/h4H2,1-3H3,(H,11,12,13);
